US07498337B2
N-methyl-1-{5-[4-(methylsulfonyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl}methanamine dihydrochloride
To a solution of tert-butyl methyl{[5-[4-(methylsulfonyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate (275 mg) in ethyl acetate (2 mL) was added a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 4 hr. The precipitated crystals were collected by filtration, washed with ethyl acetate and recrystallized from ethanol to give the title compound as white crystals (yield 157 mg, 33%).

reactant | tert-butyl methyl{[5-[4-(methylsulfonyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate | 275 mg | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)S(=O)(=O)C=1C=NC=CC1 | C23H27N3O6S2
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-1-{5-[4-(methylsulfonyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl}methanamine dihydrochloride | yield 157 mg, 33% | Cl.Cl.CNCC1=CN(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C18H19N3O4S2.2ClH/c1-19-11-14-10-18(15-5-7-16(8-6-15)26(2,22)23)21(13-14)27(24,25)17-4-3-9-20-12-17;;/h3-10,12-13,19H,11H2,1-2H3;2*1H
